US05482967
N-[3,5-Bis(trifluoromethyl)benzyl]-1,2-dihydro-2-oxo-4-phenyl-3-quinolinecarboxamide
1,2-Dihydro-2-oxo-4-phenyl-3-quinolinecarboxylic acid was reacted with 3,5-bis(trifluoromethyl)benzylamine by a method similar to Example 101 (amidation) to yield the title compound.

reactant | 1,2-Dihydro-2-oxo-4-phenyl-3-quinolinecarboxylic acid | O=C1NC2=CC=CC=C2C(=C1C(=O)O)C1=CC=CC=C1 | C16H11NO3
reactant | 3,5-bis(trifluoromethyl)benzylamine | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
product | N-[3,5-Bis(trifluoromethyl)benzyl]-1,2-dihydro-2-oxo-4-phenyl-3-quinolinecarboxamide | FC(C=1C=C(CNC(=O)C=2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=C(C1)C(F)(F)F)(F)F | C25H16F6N2O2
